US07781436B2
[4-(2-Methoxy-phenyl)-piperidin-1-yl]-(2-methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-10-yl)-methanone
A solution of 0.040 g (0.094 mmol) [4-(2-methoxy-phenyl)-piperidin-1-yl]-(1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-10-yl)-methanone hydrochloride, 0.026 ml (0.19 mmol) triethylamine and 0.023 g (0.77 mmol) paraformaldehyde in 2 ml methanol was heated at reflux for 1 h. The reaction mixture was cooled to 0° C. on an ice-water bath and treated with 0.0089 g (0.14 mmol) sodium cyanoborohydride. After completed addition the mixture was allowed to warm to room temperature and stirred for 2 h. Quenching with water and dilution with 2 M aqueous sodium carbonate solution was followed by extraction with dichloromethane (2×50 ml). The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash-chromatography (aminopropyl-modified silica gel, n-heptane/ethyl acetate) to give the title compound (0.031 g, 82%) as an off-white solid.

reactant | [4-(2-methoxy-phenyl)-piperidin-1-yl]-(1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-10-yl)-methanone hydrochloride | 0.094 mmol, 0.040 g | Cl.COC1=C(C=CC=C1)C1CCN(CC1)C(=O)C1=C2N(C=3C=CC=CC13)CCNC2
reactant | triethylamine | 0.19 mmol, 0.026 ml | C(C)N(CC)CC | C6H15N
reactant | paraformaldehyde | 0.77 mmol, 0.023 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.14 mmol, 0.0089 g | C(#N)[BH3-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | [4-(2-Methoxy-phenyl)-piperidin-1-yl]-(2-methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-10-yl)-methanone | 0.031 g, 82% | COC1=C(C=CC=C1)C1CCN(CC1)C(=O)C1=C2N(C=3C=CC=CC13)CCN(C2)C | C25H29N3O2
